US06921763B2
A mixture of 1-(4-Bromobenzyl)-1H-benzo[d]imidazole (1.193 mg, 4.15 mmol), diboron pinacol ester (1.27 g, 4.98 mmol), [1.1′bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.10 g, 0.12 mol) and potassium acetate (1.22 g, 12.46 mol) in N,N-dimethylformamide (25 mL) was heated at 85° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (20 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated and the residue was purified by flash chromatography on silica using dichloromethane/methanol (98:2 to 95:5) as mobile phase to give 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1H-benzo[d]imidazole (1.38 g, 100%): 1H NMR (CDCl3) δ 1.27 (s, 12H), 5.33 (s, 2H), 7.06 (d, J=8.24 Hz, 2H), 7.28 (d, J=8.34 Hz, 2H), 7.84 (d, J=7.70 Hz, 1H), 8.01 (s, 1H).

reactant | 1-(4-Bromobenzyl)-1H-benzo[d]imidazole | 4.15 mmol, 1.193 mg | BrC1=CC=C(CN2C=NC3=C2C=CC=C3)C=C1 | C14H11BrN2
reactant | diboron pinacol ester | 4.98 mmol, 1.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.12 mol, 0.10 g | ClCCl | CH2Cl2
reactant | potassium acetate | 12.46 mol, 1.22 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1H-benzo[d]imidazole | 1.38 g, 100% | CC1(OB(OC1(C)C)C1=CC=C(CN2C=NC3=C2C=CC=C3)C=C1)C | C20H23BN2O2
